US05304556
Preparation of 6-(4-chlorophenoxy)-3-(3-pyridylmethyl)-4 (3H)-quinazolinone (Compound No. 131 in Table)
The titled compound was prepared in the same manner as in Example 1 (1) c) from 6-bromo-3-(3-pyridylmethyl)-4 (3H)-quinazolinone and 4-chlorophenol.

reactant | 6-bromo-3-(3-pyridylmethyl)-4 (3H)-quinazolinone | BrC=1C=C2C(N(C=NC2=CC1)CC=1C=NC=CC1)=O | C14H10BrN3O
reactant | 4-chlorophenol | ClC1=CC=C(C=C1)O | C6H5ClO
product | 6-(4-chlorophenoxy)-3-(3-pyridylmethyl)-4 (3H)-quinazolinone | ClC1=CC=C(OC=2C=C3C(N(C=NC3=CC2)CC=2C=NC=CC2)=O)C=C1 | C20H14ClN3O2
